US06166028
N-(2-Chloro-4-nitrophenyl)-2-(2-dimethylaminoethylsulfanyl)acetamide
To a solution of N-(chloroacetyl)-2-chloro-4-nitroaniline (3.01 g) in N,N-dimethylformamide (100 mL) is added powdered sodium carbonate (6.0 g) and 2-dimethylaminoethanethiol hydrochloride (6.0 g). The mixture is stirred for 1 hour at 25° C., poured into water and extracted into ethyl acetate. The ethyl acetate solution is dried over anhydrous potassium carbonate and concentrated under reduced pressure to give an oil. The oil is crystallized from toluene-hexanes (3:1) to yield a pale yellow crystalline solid.

reactant | N-(chloroacetyl)-2-chloro-4-nitroaniline | 3.01 g | ClCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C8H6Cl2N2O3
reactant | sodium carbonate | 6.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-dimethylaminoethanethiol hydrochloride | 6.0 g | Cl.CN(CCS)C
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-nitrophenyl)-2-(2-dimethylaminoethylsulfanyl)acetamide | ClC1=C(C=CC(=C1)[N+](=O)[O-])NC(CSCCN(C)C)=O | C12H16ClN3O3S
